US07312330B2
7-(p-Tolyl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine
To 2 mL of dioxane was added 10 mol % of palladium(II)acetate (12 mg) and 20 mol % rac-BINAP (58 mg). After stirring for 3 hours, 4-bromotoluene (90 mg, 0.53 mmol), cesium carbonate (682 mg, 2.12 mmol), N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine (150 mg, 0.51 mmol) and activated molecular sieves (340 mg) were added. The mixture was sonicated for 10 minutes and heated in a sealed tube via microwave at 160° C. for 3 hours in a Personal Chemistry Microwave (Smith Creator). After completion, the mixture was filtered through celite, evaporated and purified by flash chromatography over silica gel using a 0-100% gradient of ethyl acetate/hexanes to give the desired product as a white solid (34 mg).

reactant | rac-BINAP | 58 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-bromotoluene | 0.53 mmol, 90 mg | BrC1=CC=C(C=C1)C | C7H7Br
reactant | cesium carbonate | 2.12 mmol, 682 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 0.51 mmol, 150 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=CN1)CNCC2)(F)F | C14H13F3N4
catalyst | palladium(II)acetate | 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 7-(p-Tolyl)-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-amine | 34 mg | C1(=CC=C(C=C1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F)C | C21H19F3N4
